US04868257
5 g 1-(3',5'-dibromo-4-acetoxyphenyl)ethanol are dissolved in 50 g of toluene, to which mixture are added 0.25 g of anhydrous copper(II)sulfate.The mixture is refluxed for 2 hours and the toluene then removed on a rotary evaporator. A yellow oil remains which after recrystallization frompetrol ether yields 2.9 g of 3,5-dibromo-4-hydroxystyrene as white crystals, mp. 75° C.

reactant | 1-(3',5'-dibromo-4-acetoxyphenyl)ethanol | 5 g | BrC=1C=C(C=C(C1OC(C)=O)Br)C(C)O | C10H10Br2O3
solvent | toluene | 50 g | C1(=CC=CC=C1)C | C7H8
catalyst | copper(II)sulfate | 0.25 g | S(=O)(=O)([O-])[O-].[Cu+2]
product | 3,5-dibromo-4-hydroxystyrene | 2.9 g | BrC=1C=C(C=C)C=C(C1O)Br | C8H6Br2O
